US09446130B2
To a solution of methyl 4-(amino(3-chloropyrazin-2-yl)methyl)benzoate (54 g, 195 mmol) in THF (500 mL) was added 2-cyanoacetic acid (16.6 g, 195 mmol) and TEA (39.4 g, 390 mmol). The mixture was added HATU (74.1 g, 195 mmol) at 0-5° C., and stirred at room temperature for 1 h. The reaction mixture was extracted with EA and water, the organic layer was dried and concentrated. The residue was purified by column chromatography on silica gel eluted with PE:EA=2:1 to give methyl 4-((3-chloropyrazin-2-yl)(2-cyanoacetamido)methyl)benzoate (67 g, yield 100%).

reactant | methyl 4-(amino(3-chloropyrazin-2-yl)methyl)benzoate | 195 mmol, 54 g | NC(C1=CC=C(C(=O)OC)C=C1)C1=NC=CN=C1Cl | C13H12ClN3O2
reactant | 2-cyanoacetic acid | 195 mmol, 16.6 g | C(#N)CC(=O)O | C3H3NO2
reactant | HATU | 195 mmol, 74.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | EA | CC(OCC)=O | C4H8O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | methyl 4-((3-chloropyrazin-2-yl)(2-cyanoacetamido)methyl)benzoate | 67 g, yield 100% | ClC=1C(=NC=CN1)C(C1=CC=C(C(=O)OC)C=C1)NC(CC#N)=O | C16H13ClN4O3
